US07662968B2
d) 2-Acetoxymethyl-3-methyl-4-(2,2,2-trifluoroethoxy)pyridine
40 ml of 2,3-dimethyl-4-(2,2,2-trifluoroethoxy)pyridine N-oxide (0.078 mole) in methylene chloride were dropwise added to a solution of 28.7 ml acetanhydride and 0.182 g 4-dimethylaminopyridine, then methylene chloride was distilled off and the residue was heated to a temperature of from 90 to 95° C. for 4-5 hours. At the end of the reaction, 3.6 ml of water were added and acetic acid was removed by vacuum distillation to obtain an oil product. The yield was 94-96%, determined by HPLC.

reactant | 2,3-dimethyl-4-(2,2,2-trifluoroethoxy)pyridine N-oxide | 0.078 mole, 40 ml | CC1=[N+](C=CC(=C1C)OCC(F)(F)F)[O-] | C9H10F3NO2
reactant | acetanhydride | 28.7 ml | CC(=O)OC(=O)C | C4H6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.182 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Acetoxymethyl-3-methyl-4-(2,2,2-trifluoroethoxy)pyridine | yield was 94-96% | C(C)(=O)OCC1=NC=CC(=C1C)OCC(F)(F)F | C11H12F3NO3
